US08623877B2
2-(5-Methoxy-pyridin-3-yl)-6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,3,4-tetrahydro-isoquinoline
The title compound was synthesized in substantially the same way as Example 1 by condensation of 6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,3,4-tetrahydro-isoquinoline with 3-bromo-5-methoxy-pyridine.

reactant | 6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,3,4-tetrahydro-isoquinoline | C[C@@H]1N(CCC1)[C@@H]1CN(CC1)C=1C=C2CCNCC2=CC1 | C18H27N3
reactant | 3-bromo-5-methoxy-pyridine | BrC=1C=NC=C(C1)OC | C6H6BrNO
product | 2-(5-Methoxy-pyridin-3-yl)-6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,3,4-tetrahydro-isoquinoline | COC=1C=C(C=NC1)N1CC2=CC=C(C=C2CC1)N1C[C@H](CC1)N1[C@H](CCC1)C | C24H32N4O
